US07700599B2
N-(5-Cyano-4-methyl-2-pyridinyl)-2,2,2-trifluoroacetamide (D98)
To a solution of 6-amino-4-methyl-3-pyridinecarbonitrile (D97) (0.213 g, 1.6 mmol) and 2,6-lutidine (0.37 mL, 3.2 mmol) in DCM (20 mL) cooled to 0° C. under argon was added trifluoroacetic anhydride (0.22 mL, 1.6 mmol) as a solution in DCM. The reaction mixture was stirred for 17 h, gradually warming to room temperature. The reaction mixture was re-cooled to 0° C. and further 2,6-lutidine (0.37 mL) and trifluoroacetic anhydride (0.22 mL) were added. The reaction was stirred at room temperature for 4 h then diluted with 10% citric acid solution and extracted with DCM. The DCM layer was washed with brine, dried and concentrated to give the crude product which was purified by column chromatography. Elution with 0-100% EtOAc/hexane gave the title compound as a white solid (0.299 g). δH (CDCl3, 400 MHz) 8.68 (1H, br.s), 8.55 (1H, s), 8.21 (1H, s), 2.62 (3H, s).

reactant | 6-amino-4-methyl-3-pyridinecarbonitrile | 1.6 mmol, 0.213 g | NC1=CC(=C(C=N1)C#N)C | C7H7N3
reactant | 2,6-lutidine | 3.2 mmol, 0.37 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoroacetic anhydride | 1.6 mmol, 0.22 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,6-lutidine | 0.37 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoroacetic anhydride | 0.22 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | N-(5-Cyano-4-methyl-2-pyridinyl)-2,2,2-trifluoroacetamide | 0.299 g | C(#N)C=1C(=CC(=NC1)NC(C(F)(F)F)=O)C | C9H6F3N3O
